US07888359B2
1.i. trans-[4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-methanol:
To a solution of trans-(4-hydroxymethyl-cyclohexyl)-methanol (50 g, 347 mmol) in DMF (700 mL) at rt was added sequentially imidazole (47.2 g, 693 mmol) and TBDMSCl (44.3 g, 294 mmol). The mixture was poured into water and the product extracted with ether. The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure. Chromatography over SiO2 (Hex/EA 4:1, 2:1) gave the desired mono-protected compound as a colourless oil (40.1 g, 45% yield).

reactant | trans-(4-hydroxymethyl-cyclohexyl)-methanol | 347 mmol, 50 g | OC[C@@H]1CC[C@H](CC1)CO | C8H16O2
reactant | imidazole | 693 mmol, 47.2 g | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 294 mmol, 44.3 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | O | H2O
reactant | DMF | 700 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | trans-[4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-methanol | 40.1 g, 45% yield | C(C)(C)(C)[SiH2]OC([C@@H]1CC[C@H](CC1)CO)(C)C | C14H30O2Si
